US04954502
5-Floro-3-(2-hydroxyethyl)indole
To a suspension of LiAlH4 (8.60 g, 0.23 mol) in 400 mL of dry THF was added 5-fluoro-3-indoleglyoxylic acid ethyl ester (13.50 g, 0.057 mol) portionwise at room temperature. Preparation of this ester intermediate is given hereinbelow. The mixture was heated to reflux under Ar for 1 h and was then cooled at 0° C. and quenched according to the method of Fieser (Fieser and Fieser, "Reagents for Organic Synthesis", Vol. 1, pg. 584). The resulting slurry was filtered and the filter cake was washed with THF. The filtrate was dried (Na2SO4) and evaporated to give the product (10.00 g, 100%) as a yellow oil. It was used as such without further purification;

reactant | LiAlH4 | 0.23 mol, 8.60 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 5-fluoro-3-indoleglyoxylic acid ethyl ester | 0.057 mol, 13.50 g | C(C)OC(C(=O)C1=CNC2=CC=C(C=C12)F)=O | C12H10FNO3
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 5-Floro-3-(2-hydroxyethyl)indole | 10.00 g, 100% | FC=1C=C2C(=CNC2=CC1)CCO | C10H10FNO
